US07968556B2
SYNTHESIS OF 9-CYCLOPENTYL-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Ethyl 5-amino-6-(cyclopentylamino)-2-(3-hydroxyphenyl)pyrimidine-4-carboxylate. In a microwave flask was placed ethyl 5-amino-2-chloro-6-(cyclopentylamino)pyrimidine-4-carboxylate (212 mg, 0.745 mmol), 3-hydroxyphenylboronic acid (154 mg, 1.12 mmol), potassium phosphate (316 mg, 1.49 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (45.8 mg, 0.112 mmol) and palladium (II) acetate (25.1 mg, 0.112 mmol) in tetrahydrofuran (3 mL) and water (0.3 mL) and the reaction mixture was heated at 120° C. for 30 min in the microwave. The reaction mixture was filtered and the solvent was removed under reduced pressure. The crude material was purified by column chromatography (25-43% ethyl acetate in hexanes and a second chromatography using 0-2% methanol in methylene chloride) to provide the title compound (76.3 mg, 0.223 mmol, 30% yield). MS (ESI) m/z 343.2 [M+1]+.

reactant | Ethyl 5-amino-6-(cyclopentylamino)-2-(3-hydroxyphenyl)pyrimidine-4-carboxylate | NC=1C(=NC(=NC1NC1CCCC1)C1=CC(=CC=C1)O)C(=O)OCC | C18H22N4O3
reactant | ethyl 5-amino-2-chloro-6-(cyclopentylamino)pyrimidine-4-carboxylate | 0.745 mmol, 212 mg | NC=1C(=NC(=NC1NC1CCCC1)Cl)C(=O)OCC | C12H17ClN4O2
reactant | 3-hydroxyphenylboronic acid | 1.12 mmol, 154 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | potassium phosphate | 1.49 mmol, 316 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.112 mmol, 45.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
catalyst | palladium (II) acetate | 0.112 mmol, 25.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9-CYCLOPENTYL-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.223 mmol, 76.3 mg, 30% yield | C1(CCCC1)N1C2=NC(=NC(=C2NC1=O)C(=O)N)C1=CC(=CC=C1)O | C17H17N5O3
